US08735398B2
(S)-2-(Methoxycarbonylamino)-2-(tetrahydro-2H-pyran-4-yl)acetic acid
To (S)-2-amino-2-(tetrahydro-2H-pyran-4-yl)acetic acid (505 mg; 3.18 mmol; obtained from Astatech) in water (15 ml) was added sodium carbonate (673 mg; 6.35 mmol), and the resultant mixture was cooled to 0° C. and then methyl chloroformate (0.26 ml; 3.33 mmol) was added dropwise over 5 minutes. The reaction was allowed to stir for 18 hours while allowing the bath to thaw to ambient temperature. The reaction mixture was then partitioned between 1N HCl and ethyl acetate. The organic layer was removed and the aqueous layer was further extracted with 2 additional portions of ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to afford Cap-170 a colorless residue. 1H NMR (500 MHz, DMSO-d6) δ ppm 12.65 (1 H, br s), 7.44 (1 H, d, J=8.24 Hz), 3.77-3.95 (3 H, m), 3.54 (3 H, s), 3.11-3.26 (2 H, m), 1.82-1.95 (1 H, m), 1.41-1.55 (2 H, m), 1.21-1.39 (2 H, m); LC-MS: Anal. Calcd. for [M+H]+ C9H16NO5: 218.1; found 218.1.

reactant | (S)-2-amino-2-(tetrahydro-2H-pyran-4-yl)acetic acid | 3.18 mmol, 505 mg | N[C@H](C(=O)O)C1CCOCC1 | C7H13NO3
reactant | sodium carbonate | 6.35 mmol, 673 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl chloroformate | 3.33 mmol, 0.26 ml | ClC(=O)OC | C2H3ClO2
solvent | water | 15 ml | O | H2O
product | (S)-2-(Methoxycarbonylamino)-2-(tetrahydro-2H-pyran-4-yl)acetic acid | COC(=O)N[C@H](C(=O)O)C1CCOCC1 | C9H15NO5
